US08461160B2
4-Chloro-pyridine-2-carboxylic acid [3-((S)-2-amino-1,4-dimethyl-6-oxo-1,4,5,6-tetrahydro-pyrimidin-4-yl)-phenyl]-amide
The coupling of [(S)-4-(3-amino-phenyl)-1,4-dimethyl-6-oxo-1,4,5,6-tetrahydro-pyrimidin-2-yl]-carbamic acid tert-butyl ester from experiment F1 and 4-chloro-pyridine-2-carboxylic acid followed by deprotection of the intermediate yielded the title compound as a colourless solid. MS (ESI): m/z=372.1 [ M+H]+.

reactant | [(S)-4-(3-amino-phenyl)-1,4-dimethyl-6-oxo-1,4,5,6-tetrahydro-pyrimidin-2-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1N(C(C[C@@](N1)(C)C1=CC(=CC=C1)N)=O)C)=O | C17H24N4O3
reactant | 4-chloro-pyridine-2-carboxylic acid | ClC1=CC(=NC=C1)C(=O)O | C6H4ClNO2
product | 4-Chloro-pyridine-2-carboxylic acid [3-((S)-2-amino-1,4-dimethyl-6-oxo-1,4,5,6-tetrahydro-pyrimidin-4-yl)-phenyl]-amide | NC=1N(C(C[C@@](N1)(C)C=1C=C(C=CC1)NC(=O)C1=NC=CC(=C1)Cl)=O)C | C18H18ClN5O2
